US06864396B2
A mixture of 8.5 grams of 3,10-didodecyl-7,14-dihydropentacene-5,12-dione and 250 mL of 2-methoxyethyl ether was stirred and flushed with nitrogen for 15 minutes. To this was added 4.46 grams of sodium borohydride. The resulting mixture was heated to 60° C. for 18 hours. The mixture was cooled to room temperature, and 42 mL of methanol was added slowly. The resulting mixture was stirred at room temperature for 30 minutes. To this was added 1.2 grams of sodium borohydride, and stirring was continued at room temperature for 16 hours. To the resulting mixture was added 60 mL of acetic acid, and the mixture was heated at 60° C. for one hour. To this mixture was added 43 mL of concentrated hydrochloric acid, and heating was continued at 60° C. for one hour. To the resulting mixture was added 100 mL of water and the mixture cooled to room temperature and the solid was collected by filtration and dried to give 2,9-didodecylpentacene.

reactant | 3,10-didodecyl-7,14-dihydropentacene-5,12-dione | 8.5 grams | C(CCCCCCCCCCC)C=1C=CC=2CC3=CC=4C(C5=CC(=CC=C5CC4C=C3C(C2C1)=O)CCCCCCCCCCCC)=O | C46H62O2
solvent | 2-methoxyethyl ether | 250 mL | COCCOCCOC | C6H14O3
product | 2,9-didodecylpentacene | C(CCCCCCCCCCC)C1=CC2=CC3=CC4=CC5=CC=C(C=C5C=C4C=C3C=C2C=C1)CCCCCCCCCCCC | C46H62
